US06987116B2
A mixture of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile (134 mg, 0.28 mmol), 1-ethynyl-4-methoxybenzene (50 μL, 0.39 mmol), 3 mg of tetrakis(triphenylphosphine)palladium(0) and 5 mg of copper(I) iodide in 2 mL of triethylamine and 7 mL of benzene is heated at reflux for 24 hours. An additional 1 mL of triethylamine and 4 mL of benzene are added and the reaction is heated at reflux for 6 hours. The mixture is cooled to room temperature and 2 mL of methanol are added. The solvents are removed in vacuo and the residue is treated with 10 mL of ethyl acetate. The insoluble material is removed by filtration, washing with ethyl acetate. The filtrate is washed with 10% aqueous hydrochloric acid, water, and saturated aqueous sodium chloride, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with 4:1 hexane:ethyl acetate to provide 92 mg of 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[(4-methoxyphenyl)ethynyl]thieno[3,2-b]pyridine-6-carbonitrile as yellow crystals, mp 249-250° C.; 1H NMR (DMSO-d6) δ 3.81 (s, 3H), 3.86 (s, 3H), 7.01 (d, J=7 Hz, 2H), 7.40 (s, 1H), 7.55 (d, J=7 Hz, 2H), 7.70 (s, 1H), 7.79 (s, 1H), 8.65 (s, 1H), 9.81 (s, 1H); MS 477.9, 479.9 (M−H)−.

reactant | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-iodothieno[3,2-b]pyridine-6-carbonitrile | 0.28 mmol, 134 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)I | C15H8Cl2IN3OS
reactant | 1-ethynyl-4-methoxybenzene | 0.39 mmol, 50 μL | C(#C)C1=CC=C(C=C1)OC | C9H8O
reactant | methanol | 2 mL | CO | CH4O
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 7 mL | C1=CC=CC=C1 | C6H6
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 5 mg | [Cu]I
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
product | 7-[(2,4-dichloro-5-methoxyphenyl)amino]-2-[(4-methoxyphenyl)ethynyl]thieno[3,2-b]pyridine-6-carbonitrile | 92 mg | ClC1=C(C=C(C(=C1)Cl)OC)NC1=C2C(=NC=C1C#N)C=C(S2)C#CC2=CC=C(C=C2)OC | C24H15Cl2N3O2S
